US06417200B1
B) N1-(3-Cyano-4-fluorobenzoyl)-N2-(4-methoxybenzoyl)-1,2-benzenediamine
CuCN (606 mg, 6.77 mmol) was dissolved in NMP (25 mL) and the solution was heated to 200° C. for 45 min. To this stirring solution was added N1-(3-bromo-4-fluorobenzoyl)-N2-(4-methoxybenzoyl)-1,2-benzenediamine (700 mg, 2.26 mmol) and stirring continued for 20 h. The solution was then cooled to room temperature, diluted with ethyl acetate and washed once with 1 N ammonium hydroxide, twice with 1 N HCl and once with brine. The organic phase was then dried with MgSO4, filtered and concentrated in vacuo. The residue was chromatographed with 10% ethyl acetate/dichloromethane to give 270 mg (44%) of off-white solid.

reactant | CuCN | 6.77 mmol, 606 mg | C(#N)[Cu]
reactant | N1-(3-bromo-4-fluorobenzoyl)-N2-(4-methoxybenzoyl)-1,2-benzenediamine | 2.26 mmol, 700 mg | BrC=1C=C(C(=O)NC=2C(=CC=CC2)NC(C2=CC=C(C=C2)OC)=O)C=CC1F | C21H16BrFN2O3
solvent | NMP | 25 mL | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N1-(3-Cyano-4-fluorobenzoyl)-N2-(4-methoxybenzoyl)-1,2-benzenediamine | 270 mg, 44% | C(#N)C=1C=C(C(=O)NC=2C(=CC=CC2)NC(C2=CC=C(C=C2)OC)=O)C=CC1F | C22H16FN3O3
